US06136823
Synthesis of Ethyl 7-Amino-1-(6-tert-butylamino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate
Acetic acid (5 ml) and iron powder (180 mg) were added to ethyl 1-(6-tert-butylamino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate (200 mg), and the mixture was stirred at 80° C. for 20 minutes. After the catalyst in the reaction mixture was removed by filtration through Celite, the solvent was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel (eluent; ethyl acetate:hexane=1:4) to obtain the title compound (190 mg) as an oil.

reactant | ethyl 1-(6-tert-butylamino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-7-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 200 mg | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)C)[N+](=O)[O-])F)=O)C(=O)OCC)F)F | C22H21F3N4O5
catalyst | iron | 180 mg | [Fe] | Fe
solvent | Acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | Ethyl 7-Amino-1-(6-tert-butylamino-3,5-difluoropyridin-2-yl)-6-fluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 190 mg | NC1=C(C=C2C(C(=CN(C2=C1C)C1=NC(=C(C=C1F)F)NC(C)(C)C)C(=O)OCC)=O)F | C22H23F3N4O3
